* Library for SIPMOS IGBT Modules 
*
* Copyright: SIEMENS AG ZT KM 6 / HL PS
*****************************************************************
* Models provided by SIEMENS are not warranted by SIEMENS as    *
* fully representing all of the specifications and operating    *
* characteristics of the semiconductor product to which the     *
* model relates. The model describe the characteristics of a    * 
* typical device.                                               * 
* In all cases, the current data sheet information for a given  *
* device is the final design guideline and the only actual      *
* performance specification.                                    *
* Altough models can be a useful tool in evaluating device      *
* performance, they cannot model exact device performance under *
* all conditions, nor are they intended to replace bread-       *
* boarding for final verification. SIEMENS therefore does not   *
* assume any liability arising from their use.                  *
* SIEMENS reserves the right to change models without prior     * 
* notice.                                                       *
*                                                               *                                                              *                                                               *
* content:                                                      *
* BSM75GD120DN2 release 6/6/97                                  *
* This model is solely valid at room-temperature                *
*                                                               *
* The basics of the IGBT model used in this template can be     *
* found in                                                      *
*       R. Kraus, K. Hoffmann, P. Türkes                        *
*       Analysis and modelling of the technology dependent      * 
*       electro-thermal IGBT characteristics                    *
*       IPEC'95 Proceedings, Yokohama 1995                      *
* and the papers cited therein                                  *
*                                                               *
* For ease of use, the modul-model is devided into              *
* half-bridge BSM75_b                                           *
* H-Bridge    BSM75_hb                                          *
* Full-bridge BSM75gd120dn2                                     *
*                                                               *
* H-Bridge    BSM200GB120DN2                                    *
*****************************************************************
* Halfbridge Configuration, Pins labeled according to data-book *
*                                                               *
* Include for Simulation:                                       *
* .LIB "bsm_mod.lib"  (PSPICE)                                  *
*                                                               *
*                                                               *
* call for simulation:                                          *
* X_BSM  p1 p2 ......           BSM75_b (PSPICE)                *
*---------------------------------------------------------------*
* connections:    Vcc+                                          *
*                 |  g1       g2                                *
*                 |  |  he1   |  he2                            *
*                 |  |  |  U  |  |  Vcc-                        *
*                 |  |  |  |  |  |  |                           *
.SUBCKT BSM75_b   21 1  2  19 3  4  20
ld1     21  d1  5n
X_BSM_1 d1  g1  2   bsm75dn2
rp1     d1      2       100meg
DFW1    2       d1      DF
rg1     1   g1  5
ls1     2   19  2n
ld2     19  d2  5n
X_BSM_2 d2  g2  4    bsm75dn2
rp2     d2      4       100meg
DFW2    4       d2      DF
rg2     3   g2  5
ls2     4   20  2n

.MODEL  DF      D       (IS=7.7E-10,RS=0.01, TT=100n, CJO=1.36n, BV=1200 )
.ENDS
********** End of Half-Bridge part of BSM75GD120DN2 *************

*****************************************************************
* H-bridge Configuration, Pins labeled according to data-book   *
*                                                               *
* Include for Simulation:                                       *
* .LIB "bsm_mod.lib"  (PSPICE)                                  *
*                                                               * 
*                                                               *
* call for simulation:                                          *
* X_BSM p1 p2 ......    BSM75_hb (PSPICE)                       *
*---------------------------------------------------------------*
* connections:    Vcc+                                          *
*                 |  g1       g2     g3        g4               *
*                 |  |  he1   |  he2 |  he3    |  he4           *
*                 |  |  |  U  |  |   |  |   V  |  |   Vcc-      *
*                 |  |  |  |  |  |   |  |   |  |  |   |         *
.SUBCKT BSM75_hb  21 1  2  19 3  4   5  6   17 7  8   20
ld1     21  d1  5n
X_BSM_1 d1  g1  2   bsm75dn2
rp1     d1      2       100meg
DFW1    2       d1      DF
rg1     1   g1  5
ls1     2   19  2n
ld2     19  d2  5n
X_BSM_2 d2  g2  4    bsm75dn2
rp2     d2      4       100meg
DFW2    4       d2      DF
rg2     3   g2  5
ls2     4   20  2n

ld3     21  d3  5n
X_BSM_3 d3  g3  6   bsm75dn2
rp3     d3      6       100meg
DFW3    6       d3      DF
rg3     5   g3  5
ls3     6   17  2n
ld4     17  d4  5n
X_BSM_4 d4  g4  8    bsm75dn2
rp4     d4      8       100meg
DFW4    8       d4      DF
rg4     7   g4  5
ls4     8   20  2n

.MODEL  DF      D       (IS=7.7E-10,RS=0.01, TT=100n, CJO=1.36n, BV=1200 )
.ENDS
********** End of H-Bridge part of BSM75GD120DN2 ****************

*****************************************************************
* Full-bridge Configuration, Pins labeled according to data-book*
*                                                               *
* Include for Simulation:                                       *
* .LIB "bsm_mod.lib"  (PSPICE)                                  *
*                                                               *
*                                                               *
* call for simulation:                                          *
* X_BSM p1 p2 ......    BSM75gd120dn2 (PSPICE)                  *
*---------------------------------------------------------------*
* connections:          Vcc+                                                     *
*                       |  g1       g2     g3        g4      g5       g6         *
*                       |  |  he1   |  he2 |  he3    |  he4  |  he5   |  he6     *
*                       |  |  |  U  |  |   |  |   V  |  |    |  |  W  |  |   Vcc-*
*                       |  |  |  |  |  |   |  |   |  |  |    |  |  |  |  |   |   *
.SUBCKT BSM75gd120dn2   13 1  2  19 3  4   5  6   17 7  8    9  10 15 11 12  14
ld1     13  d1  5n
X_BSM_1 d1  g1  2   bsm75dn2
rp1     d1      2       100meg
DFW1    2       d1      DF
rg1     1   g1  5
ls1     2   19  2n
ld2     19  d2  5n
X_BSM_2 d2  g2  4    bsm75dn2
rp2     d2      4       100meg
DFW2    4       d2      DF
rg2     3   g2  5
ls2     4   14  2n

ld3     13  d3  5n
X_BSM_3 d3  g3  6   bsm75dn2
rp3     d3      6       100meg
DFW3    6       d3      DF
rg3     5   g3  5
ls3     6   17  2n
ld4     17  d4  5n
X_BSM_4 d4  g4  8    bsm75dn2
rp4     d4      8       100meg
DFW4    8       d4      DF
rg4     7   g4  5
ls4     8   14  2n

ld5     13  d5  5n
X_BSM_5 d5  g5  10   bsm75dn2
rp5     d5      10      100meg
DFW5    10      d5      DF
rg5     9   g5  5
ls5     10  15  1n
ld6     15  d5  5n
X_BSM_6 d6  g6  12    bsm75dn2
rp6     d6      12      100meg
DFW6    12      d6      DF
rg6     11  g6  5
ls6     12  14  2n

.MODEL  DF      D       (IS=7.7E-10,RS=0.01, TT=100n, CJO=1.36n, BV=1200 )
.ENDS
********** End of Full-Bridge part of BSM75GD120DN2 **************


***********************
* IGBT model for PSPICE
***********************
* NPT-IGBT
*********
.SUBCKT BSM75DN2 ano gate kat
****************************
* Parameters of BSM75DN2 Chip at room-temperature
* units cm, s, A, V
.PARAM 
+q  = 1.6E-19   eps0 = 8.85E-14     epsi = 11.8
+un = 1350      up = 450
+A = 0.996      Agd = 0.796         wb = 220E-4      
+Nb = 8E13      taub = 100u         ni =1.5E10 
+Ise = 5.14E-11 Cje = 3.33n         Cjs = 1.49n
+Vth = 6.4      Kp = 20.6
+Cox = 29.6n    Cgs = 4.6n
+Rs = 3.25m     Rg = 3.5  
*******************************
MFET    d g s s         MOS
DE      ano e1          D1
DS      kat d           D2                              
**************************
.MODEL  MOS     NMOS    (LEVEL=1,VTO={VTH},KP={KP})
.MODEL  D1      D       (IS={ISE},CJO={CJE})
.MODEL  D2      D       (IS={ISE},CJO={CJS},TT={Taub})
*******************************************
RG      gate g          {Rg}
RS      s kat           {Rs}
CGS     g s             {Cgs}
COX     g ox            {Cox}
*****************************
* voltage across depletion region below gate:
EDEP    d ox    VALUE = {Vdep(V(d,g))}
* current through base resistor:
GIA     e d1    VALUE = {V(e,d1)/Rb(V(b))}
* collector (hole) current:
GIC     d1 kat  VALUE = {IPC(I(VINC),V(b),V(d1,kat),I(VDXJ))}
*****************************************
* subcircuit for base charge:
*****************************
CQB     b 0     1u
RQB     b 0     {Taub/1u}
GINC    0 b     VALUE   {I(VINC)}
GINE    b 0     VALUE   {INE(I(VINC),V(b),V(d1,kat),I(VDXJ))}
*************************************************
*EQb0   q0 0    VALUE   {Qb0(I(VINC),V(b),V(d1,kat))*1e6}
*RQb0   q0 0    1k
*EQS0   qs 0    VALUE   {QS0(V(d1,kat))*1e6}
*RQS0   qs 0    1k
*ETd    t 0     VALUE   {Td(V(d1,kat))*1e6}
*RTd    t 0     1k
* I(VDXJ) = dxj/dt
EXJ     xj1 0   VALUE   {1e6*xj(V(d1,kat))}
CXJ     xj  0   1u
VDXJ    xj1 xj  0
EX      dx2 0   VALUE   {DDT(xj(V(d1,kat)))}
RX      dx2 0   1
************************************************************
* current probes:
*****************
* I(VIA) = anode current
VIA     e1 e    0
* I(VINC) = electron current at collector
VINC    d1 d    0
*****************
.PARAM  D  = {2*0.026*un*up/(un+up)}
.PARAM  L  = {SQRT(D*Taub)}     
.PARAM  Q0 = {q*A*wb*Nb}
.PARAM  VPT= {q*Nb*wb*wb/(2*eps0*epsi)}
.PARAM  VN = {q*Nb*eps0*epsi*(Agd/Cox)*(Agd/Cox)}
.PARAM  XF = {SQRT(2*eps0*epsi/(q*Nb))}
*************************************************
.FUNC   Vdep(X) {MAX(X,0)+VN*(1-SQRT(1+2*MAX(X,0)/VN))}
.FUNC   Rb(X)   {wb*wb*LOG(1+2E-6*(1+up/un)*MAX(X,1m*Q0)/Q0)/(2E-6*(un+up)*MAX(X,1m*Q0))}
.FUNC   xj(V)   {XF*SQRT(1+V)}
.FUNC   FDX(V,X)        {TANH((wb-xj(V))*LIMIT(X,-1e6,1e6)/(12*D))}
.FUNC   Td(V,X) {(0.1/D)*(wb-xj(V))*(wb-xj(V))*(1-FDX(V,X))}
.FUNC   F1(V)   {Taub*COSH((wb-xj(V)+1e-6)/L)-1}
.FUNC   F2(V,X) {0.5*(1+2*FDX(V,X)/(1+FDX(V,X)*FDX(V,X)))}
.FUNC   F3(V,X) {1+Td(V,X)/Taub}
.FUNC   QS0(V)  {q*A*L*ni*TANH(0.5*(wb-xj(V))/L)}
.FUNC   Qbd(Y,Z,V,X)    {MAX(Z*1e-6+Td(V,X)*Y,0)}
.FUNC   Qb0(Y,Z,V,X)    {2*Qbd(Y,Z,V,X)/(F3(V,X)+SQRT(F3(V,X)*F3(V,X)+Td(V,X)*3*ISE*Qbd(Y,Z,V,X)/(QS0(V)*QS0(V))))}
.FUNC   INE(Y,Z,V,X)    {0.75*ISE*(Qb0(Y,Z,V,X)/QS0(V))*(Qb0(Y,Z,V,X)/QS0(V))}
.FUNC   IPC(Y,Z,V,X)    {(1/3)*Y+(4/3)*(Qb0(Y,Z,V,X)/F1(V)+MAX(Qb0(Y,Z,V,X)/Taub+INE(Y,Z,V,X)-Y,0)*F2(V,X))}
****************************************************************
.ENDS

*****************************************************************
* BSM200GB120DN2  
*****************************************************************
* Halfbridge Configuration, Pins labeled according to data-book *
*                                                               *
*                                                               *  
* call for simulation:	                                        *
* X_BSM  p1 p2 ......		BSM200GB120DN2 (PSPICE)	           *
*-------------------------------------------------------------- *
* connections:    	 Vcc+                                   *
*                 	 |  g1       g2                         *
*                 	 |  |  he1   |  he2                     *
*                 	 |  |  |  U  |  |  Vcc-                 *
*                 	 |  |  |  |  |  |  |                    *
.SUBCKT BSM200GB120DN2   3  4  5  1  6  7  2
ld1     3   d1  5n
X_BSM_1 d1  g1  5   bsm200dn2
rp1	d1	5	100meg
DFW1    5       d1      DF
rg1	4   g1  5
ls1     5   1   2n
ld2     1   d2  5n
X_BSM_2 d2  g2  7    bsm200dn2
rp2	d2	7	100meg
DFW2    7       d2      DF
rg2	6   g2  5
ls2     7   2   2n

.MODEL  DF      D       (IS=36E-10,RS=0.0025, TT=100n, CJO=5.3n, BV=1200 )
.ENDS
********** End of Half-Bridge part of BSM200GB120DN2 **************


***********************
* IGBT model for PSPICE
***********************
* NPT-IGBT
*********
.SUBCKT BSM200DN2 ano gate kat
****************************
* Parameters of two BSM100DN2 Chip at room-temperature as connected in
* the BSM200 moduls
* units cm, s, A, V
.PARAM 
+q  = 1.6E-19   eps0 = 8.85E-14     epsi = 11.8
+un = 1350      up = 450
+A = 2.652      Agd = 2.12          wb = 220E-4      
+Nb = 8E13      taub = 100u         ni =1.5E10 
+Ise = 12.6E-11 Cje = 8.86n         Cjs = 3.96n
+Vth = 6.6      Kp = 75
+Cox = 66n      Cgs = 16.6n
+Rs = 1.755m    Rg = 5  
*******************************
****************************
MFET	d g s s 	MOS
DE	ano e1 		D1
DS	kat d		D2				
**************************
.MODEL	MOS	NMOS	(LEVEL=1,VTO={VTH},KP={KP})
.MODEL 	D1	D	(IS={ISE},CJO={CJE})
.MODEL	D2	D	(IS={ISE},CJO={CJS},TT={Taub})
*******************************************
RG	gate g		{Rg}
RS	s kat		{Rs}
CGS	g s		{Cgs}
COX	g ox		{Cox}
*****************************
* voltage across depletion region below gate:
EDEP	d ox	VALUE = {Vdep(V(d,g))}
* current through base resistor:
GIA	e d1	VALUE = {V(e,d1)/Rb(V(b))}
* collector (hole) current:
GIC	d1 kat	VALUE = {IPC(I(VINC),V(b),V(d1,kat),V(dx))}
*****************************************
* subcircuit for base charge:
*****************************
CQB	b 0	1u
RQB	b 0	{Taub/1u}
GINC	0 b	VALUE	{I(VINC)}
GINE	b 0	VALUE	{INE(I(VINC),V(b),V(d1,kat),V(dx))}
*************************************************
*EQb0	q0 0	VALUE	{Qb0(I(VINC),V(b),V(d1,kat))*1e6}
*RQb0	q0 0 	1k
*EQS0	qs 0	VALUE	{QS0(V(d1,kat))*1e6}
*RQS0	qs 0	1k
*ETd	t 0	VALUE	{Td(V(d1,kat))*1e6}
*RTd	t 0	1k
EDT1	dt1 0	VALUE	{1e-6*V(d1,kat)}
CDT1	dt1 0	1
EDT2	dt2 0	VALUE	{1e-6*DDT(V(d1,kat))}
RDT2	dt2 0	1
EXJ	xj 0	VALUE	{xj(V(d1,kat))}
CXJ	xj 0	1
EX	dx2 0	VALUE	{DDT(xj(V(d1,kat)))}
RX	dx2 0	1
****************************************
* Smoothing of function dxdt:
EDX	dx1 0	VALUE	{DXDT(V(d1,kat))}
RDX	dx1 dx	1
CDX	dx 0	1n
************************************************************
* current probes:
*****************
* I(VIA) = anode current
VIA	e1 e	0
* I(VINC) = electron current at collector
VINC	d1 d	0
*****************
.PARAM	D  = {2*0.026*un*up/(un+up)}
.PARAM	L  = {SQRT(D*Taub)}	
.PARAM 	Q0 = {q*A*wb*Nb}
.PARAM	VPT= {q*Nb*wb*wb/(2*eps0*epsi)}
.PARAM	VN = {q*Nb*eps0*epsi*(Agd/Cox)*(Agd/Cox)}
.PARAM	XF = {SQRT(2*eps0*epsi/(q*Nb))}
*************************************************
.FUNC	Vdep(X)	{MAX(X,0)+VN*(1-SQRT(1+2*MAX(X,0)/VN))}
.FUNC	Rb(X)	{wb*wb*LOG(1+2E-6*(1+up/un)*MAX(X,1m*Q0)/Q0)/(2E-6*(un+up)*MAX(X,1m*Q0))}
.FUNC	xj(V)	{XF*SQRT(1+V)}
.FUNC	DXDT(V)	{LIMIT(((wb-xj(V))/(6*D))*DDT(xj(V)),-100,100)}
.FUNC	Td(V,X)	{(0.1/D)*(wb-xj(V))*(wb-xj(V))*(1-TANH(X/2))}
.FUNC	F1(V)	{Taub*COSH((wb-xj(V)+1e-6)/L)-1}
.FUNC	F2(X)	{0.5*(1+TANH(X))}
.FUNC	F3(V,X)	{1+Td(V,X)/Taub}
.FUNC	QS0(V)	{q*A*L*ni*TANH(0.5*(wb-xj(V))/L)}
.FUNC	Qbd(Y,Z,V,X)	{MAX(Z*1e-6+Td(V,X)*Y,0)}
.FUNC	Qb0(Y,Z,V,X)	{2*Qbd(Y,Z,V,X)/(F3(V,X)+SQRT(F3(V,X)*F3(V,X)+Td(V,X)*3*ISE*Qbd(Y,Z,V,X)/(QS0(V)*QS0(V))))}
.FUNC	INE(Y,Z,V,X)	{0.75*ISE*(Qb0(Y,Z,V,X)/QS0(V))*(Qb0(Y,Z,V,X)/QS0(V))}
.FUNC	IPC(Y,Z,V,X)	{(1/3)*Y+(4/3)*(Qb0(Y,Z,V,X)/F1(V)+MAX(Qb0(Y,Z,V,X)/Taub+INE(Y,Z,V,X)-Y,0)*F2(X))}
*.FUNC	IPE(X,Y,Z,V)	{X-INE(Y,Z,V)}
****************************************************************
.ENDS
